US07777047B2
7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide
A mixture of 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (11.47 g), Lawesson's reagent (15.2 g) and tetrahydrofuran (150 ml) was stirred at 50° C. for 4 hr. The reaction mixture was concentrated, and the resulting crystals were filtrated, washed with toluene, and dried to give the title compound (11.16 g, yield 93%) as yellow crystals. melting point 239-240° C.

reactant | 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 11.47 g | CN(C=1C=CC=C2C=C(NC12)C(=O)N)S(=O)(=O)C=1SC=CC1 | C14H13N3O3S2
reactant | Lawesson's reagent | 15.2 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 11.16 g, yield 93% | CN(C=1C=CC=C2C=C(NC12)C(N)=S)S(=O)(=O)C=1SC=CC1 | C14H13N3O2S3
